US04181661
Ethyl chloroformate (0.25 ml.) at -5° C. was added to a solution of 350 mg. of t-butoxycarbonylaminoacetic acid and 0.4 ml. of triethylamine in 10 ml. of methylene chloride at -5° C. After stirring 5 minutes at -5° C. there was added a solution of 610 mg. of 2-imino-3-methylthiazolidine hydrogen iodide and 1.0 ml. of triethylamine in 10 ml. of methylene chloride also at -5° C. Stirring was continued at -5° C. for 15 minutes and one hour at room temperature. The reaction mixture was washed with 40 ml. of 20% (w/v) citric acid solution, sodium bicarbonate solution, and water, dried and concentrated to dryness. The residue was triturated with ether, petroleum ether and ether and finally collected to give pure N-(3-methylthiazolidin-2-ylidene)-t-butoxycarbonylaminoacetamide.

reactant | Ethyl chloroformate | 0.25 ml | ClC(=O)OCC | C3H5ClO2
reactant | t-butoxycarbonylaminoacetic acid | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 2-imino-3-methylthiazolidine hydrogen iodide | I.N=C1SCCN1C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(3-methylthiazolidin-2-ylidene)-t-butoxycarbonylaminoacetamide | CN1C(SCC1)=NC(CNC(=O)OC(C)(C)C)=O | C11H19N3O3S
